US05371096
A solution of 1.93 g (0.0053 mol) of methyl (E)-(2S,3S,4S)-3-[4-(t-butyldimethyl-silyloxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]-2-propenoate and 67 mg (0.28 mmol) of nickel dichloride hexahydrate in 17 ml of methanol is cooled to 0° C. and 0.21 g (0.0054 mol) of sodium borohydride is added in portions over a period of 20 min. The mixture is stirred at 0° C. for another 15 min and at room temperature for 1 h, evaporated to dryness, the residue is triturated with water and ethyl acetate and filtered through a celite bed. The aqueous layer of the filtrate is separated and extracted with ethyl acetate. The combined ethyl acetate extracts are washed with brine, dried (MgSO4) and evaporated to give methyl (2S,3S,4S)-3-[4-(-t-butyldimethylsilyloxy)-2-(3-pyridyl)tetrahydrofurane-3-yl]propanoate as an oil. Flash chromatography of the crude product gave 0.8 g of analytically pure material.

reactant | methyl (E)-(2S,3S,4S)-3-[4-(t-butyldimethyl-silyloxy)-2-(3-pyridyl)tetrahydrofuran-3-yl]-2-propenoate | 0.0053 mol, 1.93 g | C(C)(C)(C)[Si](O[C@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)/C=C/C(=O)OC)(C)C | C19H29NO4Si
reactant | sodium borohydride | 0.0054 mol, 0.21 g | [BH4-].[Na+]
solvent | methanol | 17 ml | CO | CH4O
catalyst | nickel dichloride hexahydrate | 0.28 mmol, 67 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | methyl (2S,3S,4S)-3-[4-(-t-butyldimethylsilyloxy)-2-(3-pyridyl)tetrahydrofurane-3-yl]propanoate | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)CCC(=O)OC | C19H31NO4Si
